US04766127
A suspension of 2-(3-pyridylmethyl)naphthalene-6-carboxylic acid hydrochloride in 100 ml of methylene chloride is stirred with a stoichiometric amount of dilute aqueous sodium hydroxide solution until the salt is completely dissolved. The organic layer is separated, washed with water, dried over magnesium sulfate and evaporated to yield 2-(3-pyridylmethyl)naphthalene-6-carboxylic acid.

reactant | 2-(3-pyridylmethyl)naphthalene-6-carboxylic acid hydrochloride | Cl.N1=CC(=CC=C1)CC1=CC2=CC=C(C=C2C=C1)C(=O)O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-pyridylmethyl)naphthalene-6-carboxylic acid | N1=CC(=CC=C1)CC1=CC2=CC=C(C=C2C=C1)C(=O)O | C17H13NO2
